US07670613B2
A 1.0 M solution of potassium t-butoxide in t-butanol (3.2 mL) was added to a 16 mL vial fitted with a septa cap containing 3 mL of dry THF and 300 mg (3 mmoles) of cis-1,2-dihydroxy cylcopentanol at 5° C. The mixture was stirred for 0.5 h at 5° C., after which time 3 mL of a 1.0 M THF solution of 4-fluoro-2-chloro-benzonitrile was added. The reaction was stirred at 5° C. for 3 h and then allowed to warm to room temperature and stirred overnight at room temperature. The reaction mixture was cooled to 0° C., poured into a seperatory funnel containing 15 mL of water, and extracted with 20 mL of methyl tert-butyl ether. The organic phase was washed with water, brine, dried (MgSO4), concentrated in vacuo, and the residue purified by reverse phase HPLC (Shimadzu) to give 185 mg 2-Chloro-4-(cis-2-hydroxy-cyclopentyloxy)-benzonitrile. GC/MS: 237 (M/Z for C13H14ClNO).

reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | THF | 1.0 M | C1CCOC1 | C4H8O
reactant | 4-fluoro-2-chloro-benzonitrile | FC1=CC(=C(C#N)C=C1)Cl | C7H3ClFN
reactant | water | 15 mL | O | H2O
solvent | t-butanol | 3.2 mL | C(C)(C)(C)O | C4H10O
product | 2-Chloro-4-(cis-2-hydroxy-cyclopentyloxy)-benzonitrile | 185 mg | ClC1=C(C#N)C=CC(=C1)O[C@H]1[C@H](CCC1)O | C12H12ClNO2
